US03958006
Preparation of 4-Chloro-5,6,7,8-tetrahydro-1-naphthol
A solution of 37 grams (0.25 mole) of 5,6,7,8-tetrahydronaphthol in 200 ml of carbon tetrachloride was treated dropwise with stirring with 33.8 grams (0.25 mole) of sulfuryl chloride at room temperature. When addition was complete the reaction mixture slowly brought to boiling over a 1 hour period and held there at reflux for 30 minutes. After cooling to ambient temperature the reaction mixture was washed with 10 percent aqueous sodium carbonate and then with water. After drying over calcium chloride the carbon tetrachloride solution was distilled to give a portion, b.p. 110-112/0.25 mm, which was recrystallized from hexane to give 8 grams (17.5 percent) of product, m.p. 58°-59°C.

reactant | 5,6,7,8-tetrahydronaphthol | 0.25 mole, 37 grams | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | sulfuryl chloride | 0.25 mole, 33.8 grams | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-5,6,7,8-tetrahydro-1-naphthol | 8 grams, 17.5 percent | ClC1=CC=C(C=2CCCCC12)O | C10H11ClO
